US04831148
26.0 g of Raney nickel catalyst are washed with ethanol and then added to a solution of 129.2 g (0.69 mol) of 2,5-dichloro-3-nitropyridine in 1300 ml of dioxane. This mixture is hydrogenated with hydrogen under normal pressure and at a temperature in the range from 20° to 35° C. After reaction of 20% of the required amount of hydrogen, a further 30.0 g of Raney nickel catalyst are added to the reaction mixture. After a hydrogenation period of 22 hours, the catalyst is removed, the solvent is evaporated off and the residue is crystallised from ethyl acetate/hexane, affording 84.9 g (78% of theory) of 3-amino-2,5-dichloropyridine, m.p. 129°-132° C.

reactant | 2,5-dichloro-3-nitropyridine | 0.69 mol, 129.2 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 1300 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 30.0 g | [Ni] | Ni
product | 3-amino-2,5-dichloropyridine | 84.9 g, 78% | NC=1C(=NC=C(C1)Cl)Cl | C5H4Cl2N2
